### PR TITLE
chore: replace `WithLp.equiv` with a new pair `WithLp.toLp`/`WithLp.ofLp`

### PR DESCRIPTION
**Pull request by Paul-Lez**
This PR does the following: 
- deprecate `WithLp.equiv`
- Add `WithLp.toLp` and `WithLp.ofLp` (for consistency with other equivalences to type synonyms)

See [Zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/defeq.20abuse.20in.20.60WithLp.60)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Lp/ProdLp.lean [hunk 1]
```diff
@@ -458,6 +515,14 @@ theorem prod_continuous_equiv : Continuous (WithLp.equiv p (α × β)) :=
 theorem prod_continuous_equiv_symm : Continuous (WithLp.equiv p (α × β)).symm :=
   continuous_id
 
+@[continuity]
+theorem prod_continuous_toLp : Continuous (@WithLp.toLp p (α × β)) :=
+  continuous_id
+
+@[continuity]
+theorem prod_continuous_ofLp : Continuous (@WithLp.ofLp p (α × β)).symm :=
+  continuous_id
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Lp/ProdLp.lean:524]: `ofLp.symm` should be simplified to `toLp`, so no lemma should be written about it. Or maybe you meant
```suggestion
theorem prod_continuous_ofLp : Continuous (@WithLp.ofLp p (α × β)) :=
  continuous_id
```
?

File: Mathlib/Analysis/Normed/Lp/ProdLp.lean [hunk 2]
```diff
@@ -804,16 +972,20 @@ def idemFst : AddMonoid.End (WithLp p (α × β)) := (AddMonoidHom.inl α β).co
...
 
-lemma idemFst_apply (x : WithLp p (α × β)) : idemFst x = (WithLp.equiv _ _).symm (x.1, 0) := rfl
+lemma idemFst_apply' (x : WithLp p (α × β)) : idemFst x = (WithLp.equiv _ _).symm (x.1, 0) := rfl
+
+lemma idemSnd_apply' (x : WithLp p (α × β)) : idemSnd x = (WithLp.equiv _ _).symm (0, x.2) := rfl
+
+lemma idemFst_apply (x : WithLp p (α × β)) : idemFst x = WithLp.toLp (x.1, 0) := rfl
 
-lemma idemSnd_apply (x : WithLp p (α × β)) : idemSnd x = (WithLp.equiv _ _).symm (0, x.2) := rfl
+lemma idemSnd_apply (x : WithLp p (α × β)) : idemSnd x =  WithLp.toLp (0, x.2) := rfl
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Lp/ProdLp.lean:981]:
```suggestion
lemma idemSnd_apply (x : WithLp p (α × β)) : idemSnd x = WithLp.toLp (0, x.2) := rfl
```

File: Mathlib/Analysis/Normed/Lp/WithLp.lean [hunk 3]
```diff
@@ -50,8 +51,19 @@ variable (p : ℝ≥0∞) (K : Type uK) (K' : Type uK') (V : Type uV)
 
 namespace WithLp
 
+variable {p V} in
+/-- The canonical equivalence between `V` and `WithLp p V`. This should always be used to convert
+back and forth between the representations. -/
+def toLp : V ≃ WithLp p V := Equiv.refl _
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Lp/WithLp.lean:57]: nit:
```suggestion
def toLp : V ≃ WithLp p V := .refl _
```
Same below

File: Mathlib/Analysis/Normed/Lp/WithLp.lean [hunk 4]
```diff
@@ -85,7 +97,65 @@ instance instModuleFinite
 
 variable {K V}
 
-/-! `WithLp.equiv` preserves the module structure. -/
+@[simp]
+theorem toLp_symm_eq : (@toLp p V).symm = toLp (p:= p) := rfl
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Lp/WithLp.lean:101]:
```suggestion
theorem toLp_symm_eq : (@toLp p V).symm = toLp (p := p) := rfl
```
Same below

File: Mathlib/Analysis/Normed/Lp/WithLp.lean [hunk 5]
```diff
@@ -85,7 +97,65 @@ instance instModuleFinite
...
+
+@[simp]
+theorem toDual_ofDual (x : WithLp p V) : toLp (ofLp x) = x :=
+  rfl
+
+/-! `WithLp.toLp` preserves the module structure. -/
+
+@[simp]
+theorem toLp_zero [AddCommGroup V] : WithLp.toLp 0 = (0 : WithLp p V) :=
+  rfl
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Lp/WithLp.lean:118]:
```suggestion
section AddCommGroup
variable [AddCommGroup V]

@[simp] lemma toLp_zero : toLp 0 = (0 : WithLp p V) := rfl
@[simp] lemma ofLp_zero : ofLp (0 : WithLp p V) = 0 := rfl
```
and similarly for other pairs makes it clearer you've got them all

File: Mathlib/Analysis/Normed/Lp/WithLp.lean [hunk 6]
```diff
@@ -136,6 +206,13 @@ theorem equiv_symm_smul [SMul K V] (c : K) (x' : V) :
 
 variable (K V)
 
+/-- `WithLp.toLp` as a linear equivalence. -/
+@[simps -fullyApplied]
+protected def toLpLinear [Semiring K] [AddCommGroup V] [Module K V] : V ≃ₗ[K] WithLp p V :=
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Lp/WithLp.lean:211]:
```suggestion
protected def toLpLinearEquiv [Semiring K] [AddCommGroup V] [Module K V] : V ≃ₗ[K] WithLp p V :=
```

File: Mathlib/Analysis/Normed/Lp/WithLp.lean [hunk 7]
```diff
@@ -136,6 +206,13 @@ theorem equiv_symm_smul [SMul K V] (c : K) (x' : V) :
...
+  { LinearEquiv.refl _ _ with
+    toFun := WithLp.toLp
+    invFun := WithLp.ofLp }
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Lp/WithLp.lean:214]: Can you use `where`?

File: Mathlib/Analysis/Normed/Lp/ProdLp.lean (hunk 1 above)
Comment (Paul-Lez) [reply Mathlib/Analysis/Normed/Lp/ProdLp.lean:524]: Oh yeah this was a typo!

File: Mathlib/Analysis/Normed/Lp/WithLp.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Lp/WithLp.lean]: It's new in the sense that this syntax didn't exist in Lean 3, but Lean 4 by now isn't so new 😅

File: Mathlib/Analysis/Normed/Lp/WithLp.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Lp/WithLp.lean]: You need spread notation:
```
protected def toLpLinear [Semiring K] [AddCommGroup V] [Module K V] : V ≃ₗ[K] WithLp p V where
  __ := LinearEquiv.refl _ _
  toFun := WithLp.toLp
  invFun := WithLp.ofLp
```

File: Mathlib/Analysis/Normed/Lp/ProdLp.lean [hunk 8]
```diff
@@ -423,11 +429,11 @@ theorem prod_antilipschitzWith_equiv_aux [PseudoEMetricSpace α] [PseudoEMetricS
...
 theorem prod_aux_uniformity_eq [PseudoEMetricSpace α] [PseudoEMetricSpace β] :
     𝓤 (WithLp p (α × β)) = 𝓤[instUniformSpaceProd] := by
-  have A : IsUniformInducing (WithLp.equiv p (α × β)) :=
+  have A : IsUniformInducing (@WithLp.ofLp p (α × β)) :=
     (prod_antilipschitzWith_equiv_aux p α β).isUniformInducing
       (prod_lipschitzWith_equiv_aux p α β).uniformContinuous
   have : (fun x : WithLp p (α × β) × WithLp p (α × β) =>
-    ((WithLp.equiv p (α × β)) x.fst, (WithLp.equiv p (α × β)) x.snd)) = id := by
+    (WithLp.ofLp x.fst, WithLp.ofLp x.snd)) = id := by
     ext i <;> rfl
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Lp/ProdLp.lean:437]: While you're touching this, I believe the following works
```suggestion
    (WithLp.ofLp x.fst, WithLp.ofLp x.snd)) = id := rfl
```

File: Mathlib/Analysis/Normed/Lp/ProdLp.lean [hunk 9]
```diff
@@ -423,11 +429,11 @@ theorem prod_antilipschitzWith_equiv_aux [PseudoEMetricSpace α] [PseudoEMetricS
 
 theorem prod_aux_uniformity_eq [PseudoEMetricSpace α] [PseudoEMetricSpace β] :
     𝓤 (WithLp p (α × β)) = 𝓤[instUniformSpaceProd] := by
-  have A : IsUniformInducing (WithLp.equiv p (α × β)) :=
+  have A : IsUniformInducing (@WithLp.ofLp p (α × β)) :=
     (prod_antilipschitzWith_equiv_aux p α β).isUniformInducing
       (prod_lipschitzWith_equiv_aux p α β).uniformContinuous
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Lp/ProdLp.lean:434]: While you're touching this, sounds like this should be a lemma

File: Mathlib/Analysis/Normed/Lp/ProdLp.lean [hunk 10]
```diff
@@ -439,6 +445,47 @@ theorem prod_aux_cobounded_eq [PseudoMetricSpace α] [PseudoMetricSpace β] :
...
+          simp only [← ENNReal.rpow_mul, cancel, ENNReal.rpow_one, le_refl]
+        _ ≤ (edist x.fst y.fst ^ p.toReal + edist x.snd y.snd ^ p.toReal) ^ (1 / p.toReal) := by
+          gcongr
+          simp only [self_le_add_right]
+    · calc
+        edist x.snd y.snd ≤ (edist x.snd y.snd ^ p.toReal) ^ (1 / p.toReal) := by
+          simp only [← ENNReal.rpow_mul, cancel, ENNReal.rpow_one, le_refl]
+        _ ≤ (edist x.fst y.fst ^ p.toReal + edist x.snd y.snd ^ p.toReal) ^ (1 / p.toReal) := by
+          gcongr
+          simp only [self_le_add_left]
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Lp/ProdLp.lean:468]: I feel like there's no need to indent so much
```suggestion
  have cancel : p.toReal * (1 / p.toReal) = 1 := mul_div_cancel₀ 1 (zero_lt_one.trans_le h).ne'
  rw [prod_edist_eq_add (zero_lt_one.trans_le h)]
  simp only [edist, forall_prop_of_true, one_mul, ENNReal.coe_one, sup_le_iff]
  constructor
  · calc
      edist x.fst y.fst ≤ (edist x.fst y.fst ^ p.toReal) ^ (1 / p.toReal) := by
        simp only [← ENNReal.rpow_mul, cancel, ENNReal.rpow_one, le_refl]
      _ ≤ (edist x.fst y.fst ^ p.toReal + edist x.snd y.snd ^ p.toReal) ^ (1 / p.toReal) := by
        gcongr
        simp only [self_le_add_right]
  · calc
      edist x.snd y.snd ≤ (edist x.snd y.snd ^ p.toReal) ^ (1 / p.toReal) := by
        simp only [← ENNReal.rpow_mul, cancel, ENNReal.rpow_one, le_refl]
      _ ≤ (edist x.fst y.fst ^ p.toReal + edist x.snd y.snd ^ p.toReal) ^ (1 / p.toReal) := by
        gcongr
        simp only [self_le_add_left]
```

File: Mathlib/Analysis/Normed/Lp/ProdLp.lean [hunk 11]
```diff
@@ -439,6 +445,47 @@ theorem prod_aux_cobounded_eq [PseudoMetricSpace α] [PseudoMetricSpace β] :
...
+    rw [prod_edist_eq_add pos, ENNReal.toReal_div 1 p]
+    simp only [edist, ← one_div, ENNReal.toReal_one]
+    calc
+      (edist x.fst y.fst ^ p.toReal + edist x.snd y.snd ^ p.toReal) ^ (1 / p.toReal) ≤
+          (edist (WithLp.equiv p _ x) (WithLp.equiv p _ y) ^ p.toReal +
+          edist (WithLp.equiv p _ x) (WithLp.equiv p _ y) ^ p.toReal) ^ (1 / p.toReal) := by
+        gcongr <;> simp [edist]
+      _ = (2 ^ (1 / p.toReal) : ℝ≥0) * edist (WithLp.equiv p _ x) (WithLp.equiv p _ y) := by
+        simp only [← two_mul, ENNReal.mul_rpow_of_nonneg _ _ nonneg, ← ENNReal.rpow_mul, cancel,
+          ENNReal.rpow_one, ENNReal.coe_rpow_of_nonneg _ nonneg, coe_ofNat]
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Lp/ProdLp.lean:487]: Is this proof coming from somewhere? If so, can you golf the original using it?

File: Mathlib/Analysis/Normed/Lp/WithLp.lean (hunk 3 above)
Comment (Paul-Lez) [reply Mathlib/Analysis/Normed/Lp/WithLp.lean]: I meant the style convention of *prefering* `.refl` to `Equiv.refl` :)

File: Mathlib/Analysis/Normed/Lp/ProdLp.lean (hunk 10 above)
Comment (Paul-Lez) [reply Mathlib/Analysis/Normed/Lp/ProdLp.lean:468]: Fair - admittedly I just copied and pasted it from the `equiv` version

File: Mathlib/Analysis/Normed/Lp/ProdLp.lean [hunk 12]
```diff
@@ -380,30 +386,30 @@ abbrev prodPseudoMetricAux [PseudoMetricSpace α] [PseudoMetricSpace β] :
...
+        gcongr
+        simp only [self_le_add_right]
+  · calc
+      edist x.snd y.snd ≤ (edist x.snd y.snd ^ p.toReal) ^ (1 / p.toReal) := by
+        simp only [← ENNReal.rpow_mul, cancel, ENNReal.rpow_one, le_refl]
+      _ ≤ (edist x.fst y.fst ^ p.toReal + edist x.snd y.snd ^ p.toReal) ^ (1 / p.toReal) := by
+        gcongr
+        simp only [self_le_add_left]
+
+theorem prod_antilipschitzWith_ofLp_aux [PseudoEMetricSpace α] [PseudoEMetricSpace β] :
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Lp/ProdLp.lean:411]:
```suggestion
private theorem prod_antilipschitzWith_ofLp_aux [PseudoEMetricSpace α] [PseudoEMetricSpace β] :
```
since it's auxiliary

File: Mathlib/Analysis/Normed/Lp/ProdLp.lean [hunk 13]
```diff
@@ -563,6 +592,22 @@ theorem prod_infty_equiv_isometry [PseudoEMetricSpace α] [PseudoEMetricSpace β
...
 
+theorem prod_lipschitzWith_ofLp [PseudoEMetricSpace α] [PseudoEMetricSpace β] :
+    LipschitzWith 1 (@WithLp.ofLp p (α × β)) :=
+  prod_lipschitzWith_equiv_aux p α β
+
+theorem prod_antilipschitzWith_ofLp [PseudoEMetricSpace α] [PseudoEMetricSpace β] :
+    AntilipschitzWith ((2 : ℝ≥0) ^ (1 / p).toReal) (@WithLp.ofLp p (α × β)) :=
+  prod_antilipschitzWith_equiv_aux p α β
+
+theorem prod_infty_ofLp_isometry [PseudoEMetricSpace α] [PseudoEMetricSpace β] :
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Lp/ProdLp.lean:603]:
```suggestion
theorem isometry_prod_infty_ofLp [PseudoEMetricSpace α] [PseudoEMetricSpace β] :
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Analysis/Normed/Lp/ProdLp.lean (hunk 13 above)
Comment (Paul-Lez) [reply Mathlib/Analysis/Normed/Lp/ProdLp.lean:603]: Also changed the original theorem name to `isometry_prod_infty_equiv` for consistency.

Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Lp/ProdLp.lean]: Oh I was thinking you could leave that one alone since you're about to deprecate it anyway

File: Mathlib/Analysis/Normed/Lp/WithLp.lean [hunk 14]
```diff
@@ -50,8 +51,19 @@ variable (p : ℝ≥0∞) (K : Type uK) (K' : Type uK') (V : Type uV)
 
 namespace WithLp
 
+variable {p V} in
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Lp/WithLp.lean:54]: Should `p` be explicit to one or both of these?

Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Lp/WithLp.lean:54]: `p` could be explicit in `toLp`, yes

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Lp/WithLp.lean:54]: That sounds good to me, it's quite common to want to write `‖toLp v‖`, and this won't type-check unless the `p` is specified somehow. The same problem doesn't exist for `ofLp`.

**Review by eric-wieser — COMMENTED** [review]
I think we should rip off the bandaid and deprecate `equiv` in _this_ PR, rather than in a follow-up. Otherwise we have two spellings of everything, and reviewers have to tell contributors which one to use.

**Comment by YaelDillies** [comment]
Can't this be done in a second PR soon? Paul is really really focused on that refactor and definitely doesn't have 10 other things going on.

**Comment by eric-wieser** [comment]
I don't see any benefit in merging this PR until the other is ready to go. Mathlib shouldn't have two non-deprecated ways to spell something identical.

**Comment by Paul-Lez** [comment]
I can take care of this tonight!

**Comment by YaelDillies** [comment]
Sure, I agree. All I'm saying is that they should be in separate PR. But I am happy for both PRs to land in a short time frame.

**Comment by Paul-Lez** [comment]
Added the deprecations (and also removed `simp` tags from deprecated lemmas). 

Along the way, I also noticed that `ofLpProdContinuousLinearEquiv`/`prodContinuousLinearEquiv` should be generalised, and added a TODO note to that effect. I think this may be better to leave to another PR since it would be natural to move it to the `WithLp` file, but the imports aren't quite right (and maybe we don't want to be changing those in this PR?)

File: Mathlib/Analysis/Normed/Lp/WithLp.lean [hunk 15]
```diff
@@ -85,62 +97,108 @@ instance instModuleFinite
...
+@[simp] theorem ofLp_neg (x : WithLp p V) : ofLp (-x) = -ofLp x := rfl
+
+end AddCommGroup
+
+@[simp] theorem toLp_smul [SMul K V] (c : K) (x : V) : toLp p (c • x) = c • (toLp p x) := rfl
+@[simp] theorem ofLp_smul [SMul K V] (c : K) (x : WithLp p V) : ofLp (c • x) = c • ofLp x := rfl
+
+section equiv
+
+@[deprecated "WithLp.equiv has been deprecated, use `WithLp.ofLp` instead" (since := "2024-04-27")]
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Lp/WithLp.lean:139]:
```suggestion
@[deprecated ofLp_zero (since := "2024-04-27")]
```
etc

File: Mathlib/Analysis/Normed/Lp/WithLp.lean [hunk 16]
```diff
@@ -50,8 +51,19 @@ variable (p : ℝ≥0∞) (K : Type uK) (K' : Type uK') (V : Type uV)
...
+
+variable {p V} in
+/-- The canonical equivalence between `WithLp p V` and `V`. This should always be used to convert
+back and forth between the representations. -/
+def ofLp : WithLp p V ≃ V := .refl _
+
 /-- The canonical equivalence between `WithLp p V` and `V`. This should always be used to convert
 back and forth between the representations. -/
+@[deprecated WithLp.ofLp (since := "2024-04-27")]
 protected def equiv : WithLp p V ≃ V := Equiv.refl _
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Lp/WithLp.lean:67]: Making this an `abbrev` (but not an `alias`) for `ofLp` should mean that the new `ofLp` lemmas continue to apply to it

File: Mathlib/Analysis/Normed/Lp/WithLp.lean [hunk 17]
```diff
@@ -85,62 +97,108 @@ instance instModuleFinite
...
+  __ := LinearEquiv.refl _ _
+  toFun := WithLp.ofLp
+  invFun := WithLp.toLp p
+
+/-- `WithLp.equiv` as a linear equivalence. -/
+@[deprecated WithLp.ofLpLinearEquiv  (since := "2024-04-27")]
+protected def linearEquiv [Semiring K] [AddCommGroup V] [Module K V] : WithLp p V ≃ₗ[K] V where
+  __ := LinearEquiv.refl _ _
+  toFun := WithLp.equiv _ _
+  invFun := (WithLp.equiv _ _).symm
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Lp/WithLp.lean:202]: There's no need to have both of these; a `deprecated alias` of `linearEquiv` for `ofLpLinearEquiv` would be enough.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 18]
```diff
@@ -185,9 +185,19 @@ theorem finrank_euclideanSpace_fin {n : ℕ} :
     Module.finrank 𝕜 (EuclideanSpace 𝕜 (Fin n)) = n := by simp
 
 theorem EuclideanSpace.inner_eq_star_dotProduct (x y : EuclideanSpace 𝕜 ι) :
+    ⟪x, y⟫ = dotProduct (WithLp.ofLp y) (star <| WithLp.ofLp x) :=
+  rfl
+
+theorem EuclideanSpace.inner_piLp_toLp (x y : ι → 𝕜) :
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean:191]:
```suggestion
theorem EuclideanSpace.inner_toLp_toLp (x y : ι → 𝕜) :
```

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 19]
```diff
@@ -229,7 +239,7 @@ variable (ι 𝕜)
 
 /-- A shorthand for `PiLp.continuousLinearEquiv`. -/
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean:240]:
```suggestion
/-- A shorthand for `PiLp.ofLpContinuousLinearEquiv`. -/
```

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 20]
```diff
@@ -247,22 +257,32 @@ variable [DecidableEq ι]
 /-- The vector given in euclidean space by being `a : 𝕜` at coordinate `i : ι` and `0 : 𝕜` at
 all other coordinates. -/
 def EuclideanSpace.single (i : ι) (a : 𝕜) : EuclideanSpace 𝕜 ι :=
-  (WithLp.equiv _ _).symm (Pi.single i a)
+  WithLp.toLp _ (Pi.single i a)
 
 @[simp]
+theorem WithLp.ofLp_single (i : ι) (a : 𝕜) :
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean:263]:
```suggestion
theorem EuclideanSpace.ofLp_single (i : ι) (a : 𝕜) :
```
for disambiguation

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 21]
```diff
@@ -247,22 +257,32 @@ variable [DecidableEq ι]
...
+    WithLp.ofLp (EuclideanSpace.single i a) = Pi.single i a :=
+  rfl
+
+@[deprecated WithLp.ofLp_single (since := "2024-04-27")]
 theorem WithLp.equiv_single (i : ι) (a : 𝕜) :
     WithLp.equiv _ _ (EuclideanSpace.single i a) = Pi.single i a :=
   rfl
 
 @[simp]
+theorem WithLp.toLp_single (i : ι) (a : 𝕜) :
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean:273]:
```suggestion
theorem EuclideanSpace.toLp_single (i : ι) (a : 𝕜) :
```

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 22]
```diff
@@ -1025,30 +1045,56 @@ variable [Fintype n] [DecidableEq n]
 /-- `Matrix.toLin'` adapted for `EuclideanSpace 𝕜 _`. -/
 def toEuclideanLin : Matrix m n 𝕜 ≃ₗ[𝕜] EuclideanSpace 𝕜 n →ₗ[𝕜] EuclideanSpace 𝕜 m :=
   Matrix.toLin' ≪≫ₗ
-    LinearEquiv.arrowCongr (WithLp.linearEquiv _ 𝕜 (n → 𝕜)).symm
-      (WithLp.linearEquiv _ 𝕜 (m → 𝕜)).symm
+    LinearEquiv.arrowCongr (WithLp.ofLpLinearEquiv _ 𝕜 (n → 𝕜)).symm
+      (WithLp.ofLpLinearEquiv _ 𝕜 (m → 𝕜)).symm
 
 @[simp]
+theorem toEuclideanLin_piLp_toLp (A : Matrix m n 𝕜) (x : n → 𝕜) :
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean:1052]:
```suggestion
theorem toEuclideanLin_toLp (A : Matrix m n 𝕜) (x : n → 𝕜) :
```

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 23]
```diff
@@ -1025,30 +1045,56 @@ variable [Fintype n] [DecidableEq n]
...
+  rfl
+
+@[deprecated toEuclideanLin_piLp_toLp (since := "2024-04-27")]
 theorem toEuclideanLin_piLp_equiv_symm (A : Matrix m n 𝕜) (x : n → 𝕜) :
     Matrix.toEuclideanLin A ((WithLp.equiv _ _).symm x) =
       (WithLp.equiv _ _).symm (Matrix.toLin' A x) :=
   rfl
 
 @[simp]
+theorem piLp_ofLp_toEuclideanLin (A : Matrix m n 𝕜) (x : EuclideanSpace 𝕜 n) :
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean:1064]:
```suggestion
theorem ofLp_toEuclideanLin (A : Matrix m n 𝕜) (x : EuclideanSpace 𝕜 n) :
```

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 24]
```diff
@@ -1025,30 +1045,56 @@ variable [Fintype n] [DecidableEq n]
...
+    toEuclideanLin M v = WithLp.toLp _ (M *ᵥ WithLp.ofLp v) :=
+  rfl
+
+@[deprecated toEuclideanLin_apply (since := "2024-04-27")]
+theorem toEuclideanLin_apply' (M : Matrix m n 𝕜) (v : EuclideanSpace 𝕜 n) :
+    toEuclideanLin M v = (WithLp.equiv _ _).symm (M *ᵥ WithLp.equiv _ _ v) :=
   rfl
 
 @[simp]
+theorem piLp_ofLp_toEuclideanLin_apply (M : Matrix m n 𝕜) (v : EuclideanSpace 𝕜 n) :
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean:1083]:
```suggestion
theorem ofLp_toEuclideanLin_apply (M : Matrix m n 𝕜) (v : EuclideanSpace 𝕜 n) :
```

File: Mathlib/Analysis/InnerProductSpace/PiL2.lean [hunk 25]
```diff
@@ -1067,18 +1113,33 @@ lemma toEuclideanLin_eq_toLin_orthonormal [Fintype m] :
...
 /-- The inner product of a row of `A` and a row of `B` is an entry of `B * Aᴴ`. -/
 theorem inner_matrix_row_row [Fintype n] (A B : Matrix m n 𝕜) (i j : m) :
     ⟪A i, B j⟫ₑ = (B * Aᴴ) j i := by
   rfl
 
+/-- The inner product of a row of `A` and a row of `B` is an entry of `B * Aᴴ`. -/
+@[deprecated inner_matrix_row_row (since := "2024-04-27")]
+theorem inner_matrix_row_row' [Fintype n] (A B : Matrix m n 𝕜) (i j : m) :
+    ⟪A i, B j⟫ₑ' = (B * Aᴴ) j i := by
+  rfl
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/PiL2.lean:1130]: I don't see the point of adding a new lemma that's immediately deprecated. You are changing the lemma statement of `inner_matrix_row_row`, so whatever downstream uses of `inner_matrix_row_row` there are, creating a new lemma `inner_matrix_row_row'` won't save the people from having to figure out what happened.
```suggestion
```
Same below

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Analysis/Normed/Lp/PiLp.lean [hunk 26]
```diff
@@ -581,17 +629,35 @@ theorem nnnorm_eq_ciSup (f : PiLp ∞ β) : ‖f‖₊ = ⨆ i, ‖f i‖₊ :=
   ext
   simp [NNReal.coe_iSup, norm_eq_ciSup]
 
-@[simp] theorem nnnorm_equiv (f : PiLp ∞ β) : ‖WithLp.equiv ⊤ _ f‖₊ = ‖f‖₊ := by
+@[simp] lemma nnnorm_ofLp (f : PiLp ∞ β) : ‖ofLp f‖₊ = ‖f‖₊ := by
+  rw [nnnorm_eq_ciSup, Pi.nnnorm_def, Finset.sup_univ_eq_ciSup]
+  dsimp only [ofLp_apply]
+
+set_option linter.deprecated false in
+@[deprecated lipschitzWith_ofLp (since := "2024-04-27")]
```
Comment (EtienneC30) [inline Mathlib/Analysis/Normed/Lp/PiLp.lean]:
```suggestion
@[deprecated nnnorm_ofLp (since := "2024-04-27")]
```

File: Mathlib/Analysis/Normed/Lp/PiLp.lean [hunk 27]
```diff
@@ -581,17 +629,35 @@ theorem nnnorm_eq_ciSup (f : PiLp ∞ β) : ‖f‖₊ = ⨆ i, ‖f i‖₊ :=
...
+theorem nnnorm_equiv (f : PiLp ∞ β) : ‖WithLp.equiv ⊤ _ f‖₊ = ‖f‖₊ := by
   rw [nnnorm_eq_ciSup, Pi.nnnorm_def, Finset.sup_univ_eq_ciSup]
   dsimp only [WithLp.equiv_pi_apply]
 
-@[simp] theorem nnnorm_equiv_symm (f : ∀ i, β i) : ‖(WithLp.equiv ⊤ _).symm f‖₊ = ‖f‖₊ :=
+@[simp] lemma nnnorm_toLp (f : ∀ i, β i) : ‖toLp ∞ f‖₊ = ‖f‖₊ := (nnnorm_ofLp _).symm
+
+set_option linter.deprecated false in
+@[deprecated nnnorm_equiv_symm (since := "2024-04-27")]
```
Comment (EtienneC30) [inline Mathlib/Analysis/Normed/Lp/PiLp.lean]:
```suggestion
@[deprecated nnnorm_toLp (since := "2024-04-27")]
```

File: Mathlib/Analysis/Normed/Lp/WithLp.lean [hunk 28]
```diff
@@ -95,70 +106,117 @@ instance instModuleFinite
...
 variable (K V)
 
-/-- `WithLp.equiv` as a linear equivalence. -/
+/-- `WithLp.ofLp` as a linear equivalence. -/
 @[simps -fullyApplied]
-protected def linearEquiv [Semiring K] [AddCommGroup V] [Module K V] : WithLp p V ≃ₗ[K] V :=
-  { LinearEquiv.refl _ _ with
-    toFun := WithLp.equiv _ _
-    invFun := (WithLp.equiv _ _).symm }
+def ofLpLinearEquiv [Semiring K] [AddCommGroup V] [Module K V] : WithLp p V ≃ₗ[K] V  where
```
Comment (EtienneC30) [inline Mathlib/Analysis/Normed/Lp/WithLp.lean:213]: Would we want `toLpLinearEquiv` as well? I noticed it was in an earlier version, but I didn't see in the discussion why it had been removed.

File: Mathlib/MeasureTheory/Measure/Haar/OfBasis.lean [hunk 29]
```diff
@@ -327,13 +327,22 @@ instance [Finite ι] : BorelSpace (EuclideanSpace ℝ ι) := Pi.borelSpace
 
 /-- `WithLp.equiv` as a `MeasurableEquiv`. -/
 @[simps toEquiv]
-protected def measurableEquiv : EuclideanSpace ℝ ι ≃ᵐ (ι → ℝ) where
-  toEquiv := WithLp.equiv _ _
+def measurableOfLp : EuclideanSpace ℝ ι ≃ᵐ (ι → ℝ) where
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Haar/OfBasis.lean:330]: I think this one should rather be named `ofLpMeasurableEquiv`, on the same model as `ofLpLinearEquiv`.

**Review by EtienneC30 — COMMENTED** [review]
Thank you for your work! There are some deprecation warnings. Here are the fixes.
In `Normed.Lp.ProdLp` on line 983:
```lean
    · simp only [← prod_nnnorm_ofLp, WithLp.ofLp_smul, nnnorm_smul]
```
In `Normed.Lp.PiLp` on line 749:
```lean
    · rw [← nnnorm_ofLp, ← nnnorm_ofLp, WithLp.ofLp_smul, nnnorm_smul]
```

**Comment by eric-wieser** [comment]
> I think we should rip off the bandaid and deprecate `equiv` in _this_ PR, rather than in a follow-up. Otherwise we have two spellings of everything, and reviewers have to tell contributors which one to use.

I should be clear that I not longer believe this. I think a good place to be is:

* `toLp` and `ofLp` are plain functions
* all the lemmas are stated in terms of these, with the ones in terms of `equiv` deprecated
* `equiv` and `linearEquiv` and `continuousLinearEquiv` etc remain undeprecated, but are no longer simp-normal.

**Comment by EtienneC30** [comment]
Why would we leave the equivs undeprecated?

**Comment by eric-wieser** [comment]
Because if `toLp` and `ofLp` are the plain functions, we still want a version bundled as an equiv. We could always consider renaming the equivs to include `ofLp` or `toLp` in the name, but this is far less important than the rest of this PR.

(note that the commits I am pushing do not work towards this goal)

**Comment by EtienneC30** [comment]
Ok, but why would we make `ofLp` and `toLp` plain functions?

**Comment by eric-wieser** [comment]
> Ok, but why would we make `ofLp` and `toLp` plain functions?

Because this permits an eventual future of
```lean-4
structure WithLp where toLp :: ofLp : V
```

**Comment by EtienneC30** [comment]
Ok I understand.

**Comment by eric-wieser** [comment]
I've adjusted the diff here to show the difference with the now-merged #26459; merging this PR as is would amount to reverting that one and merging the original version of this instead. I don't think we should actually do that, but maybe there are parts of this diff we still want.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.
